US07951801B2
Intermediate 25: 1-(2-dimethylamino-ethyl)-5-oxo-pyrrolidine-3-carboxylic acid
A mixture of commercially available itaconic acid and N,N-dimethylethylenediamine was heated up to 160° C. for about 20-25 minutes. The mixture was allowed to cool to 100° C. and then diluted with MeOH to prevent solidification. The product was obtained in a 56% yield after crystallization from MeOH/EtOAc. 1H-NMR (300 MHz, D2O): δ 2.63 (dd, 1H), 2.80 (dd, 1H), 2.95 (s, 6H), 3.15-3.25 (m, 1H), 3.32-3.44 (m, 1H), 3.44-3.76 (m, 4H), 3.82-3.94 (m, 1H). Retention Time (LC, method: ammonium acetate standard): 0.13 min. MS (M+H+): 201.0.

reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
solvent | MeOH | CO | CH4O
product | 1-(2-dimethylamino-ethyl)-5-oxo-pyrrolidine-3-carboxylic acid | 56% yield | CN(CCN1CC(CC1=O)C(=O)O)C | C9H16N2O3
